US05798316
To a solution of 7.89 g (0.0355 mole) of methyl 2-(2-formyl-5-methyl-phenoxy)propionate in 20 mL of methanol, cooled to 5° C., was added a solution of 0.10 g (0.0018 mole) of sodium methoxide in 20 mL of methanol. While the temperature was maintained between 0° C. and 5° C., 0.36 g (0.0094 mole) of sodium borohydride was added to the reaction during a period of about 10 minutes. The reaction mixture was allowed to warm to ambient temperature, where it was stirred for two hours. At the end of this period, the reaction mixture was poured into 75 mL of 0.25N hydrochloric acid. This mixture was extracted twice with methylene chloride. The combined extracts were washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was evaporated under reduced pressure, leaving a colorless oil as a residue. This oil was placed on a silica gel column and eluted first with methylene chloride/ethyl acetate (95/5) and then with the same solvents (90/10). After the product-containing fractions were combined and the solvents evaporated under reduced pressure, 5.76 g of methyl 2-(2-hydroxy-methyl-5-methylphenoxy)propionate was isolated as a colorless oil. The NMR and IR spectra were consistent with the proposed structure.

reactant | methyl 2-(2-formyl-5-methyl-phenoxy)propionate | 0.0355 mole, 7.89 g | C(=O)C1=C(OC(C(=O)OC)C)C=C(C=C1)C | C12H14O4
reactant | sodium borohydride | 0.0094 mole, 0.36 g | [BH4-].[Na+]
reactant | hydrochloric acid | 0.25N, 75 mL | Cl | ClH
reactant | methanol | 20 mL | CO | CH4O
reactant | methanol | 20 mL | CO | CH4O
catalyst | sodium methoxide | 0.0018 mole, 0.10 g | C[O-].[Na+]
product | methyl 2-(2-hydroxy-methyl-5-methylphenoxy)propionate | 5.76 g | OC1=C(OC(C(=O)OC)C)C=C(C=C1C)C | C12H16O4
